US06531491B1
3-(Benzhydrylidene-amino)-phenol was prepared as follows: A stirred solution of benzophenone imine (15.0 g, 82.8 mmol) and 3-aminophenol (9.03 g, 82.8 mmol) in 25 mL toluene was heated at reflux with removal of H2O with a Dean-Stark trap for 3.5 h. The crystals that formed from the cooled reaction mixture were collected by vacuum filtration, washed with hexanes and air dried. In this manner, 3-(benzhydrylidene-amino)-phenol was obtained as a light yellow solid (17.3 g, 76%): 1H NMR (CDCl3) δ 7.64 (d, 2H, J=7.1 Hz), 7.38 (d, 1H, J=7.1 Hz), 7.34-7.15 (m, 7H), 7.04 (d, 2H, J=7.2 Hz), 6.88 (t, 1H, J=8.1 Hz), 6.82 (d, 1H, J=8.2 Hz), 6.23 (s, 1H), 6.21 (d, 1H, J=7.8 Hz). Anal. Calc. for C19H15NO: C, 83.49; H, 5.53; N, 5.12. Found: C, 83.51; H, 5.65; N, 5.03.

reactant | benzophenone imine | 82.8 mmol, 15.0 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)=N | C13H11N
reactant | 3-aminophenol | 82.8 mmol, 9.03 g | NC=1C=C(C=CC1)O | C6H7NO
reactant | H2O | O | H2O
solvent | toluene | 25 mL | C1(=CC=CC=C1)C | C7H8
product | 3-(benzhydrylidene-amino)-phenol | C(C1=CC=CC=C1)(C1=CC=CC=C1)=NC=1C=C(C=CC1)O | C19H15NO
